US07157487B2
To methyl 2-methylindazole-3-carboxylate (1.59 g, 8.36 mmol) were added THF (85 ml) and 0.25N NaOH (50 ml, 12.5 mmol) and the resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. To the residue was added water, followed by the addition of 1N HCl (50 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give 2-methylindazole-3-carboxylic acid (1.34 g, 91%) as a colorless solid.

reactant | methyl 2-methylindazole-3-carboxylate | 8.36 mmol, 1.59 g | CN1N=C2C=CC=CC2=C1C(=O)OC | C10H10N2O2
reactant | NaOH | 12.5 mmol, 0.25N, 50 ml | [OH-].[Na+]
solvent | THF | 85 ml | C1CCOC1 | C4H8O
product | 2-methylindazole-3-carboxylic acid | 1.34 g, 91% | CN1N=C2C=CC=CC2=C1C(=O)O | C9H8N2O2
